US05852017
f) 6-Amino-7-chloro-1-(methoxycarbonylmethyl)-2,3(1H,4H)-quinoxalinedione
10 g (30.5 mmol) of 7-chloro-1-(methoxy-carbonylmethyl)-6-nitro-2,3(1H,4H)-quinoxalinedione were dissolved in 300 ml of dimethylformamide and, after addition of 5 g of Raney nickel, hydrogenated under 1 bar at room temperature. The mixture was then filtered and the filtrate was concentrated under reduced pressure to yield 8.6 g (95%) of the product. Melting point >260° C.

reactant | 7-chloro-1-(methoxy-carbonylmethyl)-6-nitro-2,3(1H,4H)-quinoxalinedione | 30.5 mmol, 10 g | ClC1=C(C=C2NC(C(N(C2=C1)CC(=O)OC)=O)=O)[N+](=O)[O-] | C11H8ClN3O6
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
catalyst | Raney nickel | 5 g | [Ni] | Ni
product | 6-Amino-7-chloro-1-(methoxycarbonylmethyl)-2,3(1H,4H)-quinoxalinedione | 8.6 g, 95% | NC=1C=C2NC(C(N(C2=CC1Cl)CC(=O)OC)=O)=O | C11H10ClN3O4
